US05922880
To a solution of 0.26 g of 2-(4-hydroxybutyloxy)-5-trifluoromethylpyridine, 0.3 g of 2-chloro-6-methyl-4-(3,3-dichloro-2-propenyloxy)phenol and 0.31 g of triphenylphosphine dissolved in 30 ml of dichloromethane was added dropwise a solution of 0.24 g of diisopropyl azodicarboxylate dissolved in 5 ml of dichloromethane, while stirring at room temperature. After stirring at room temperature for 24 hours, the reaction mixture was concentrated to obtain a residue. The residue was subjected to silica gel chromatography, which afforded 0.50 g of 3-chloro-5-methyl-4-[4-(5-trifluoromethyl-2-pyridyloxy)butyloxy]-1-(3,3-dichloro-2-propenyloxy)benzene (89% yield), nD23.0 1.5275.

reactant | 2-(4-hydroxybutyloxy)-5-trifluoromethylpyridine | 0.26 g | OCCCCOC1=NC=C(C=C1)C(F)(F)F | C10H12F3NO2
reactant | 2-chloro-6-methyl-4-(3,3-dichloro-2-propenyloxy)phenol | 0.3 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)C)O | C10H9Cl3O2
reactant | triphenylphosphine | 0.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.24 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-chloro-5-methyl-4-[4-(5-trifluoromethyl-2-pyridyloxy)butyloxy]-1-(3,3-dichloro-2-propenyloxy)benzene | 0.50 g, 89% yield | ClC=1C=C(C=C(C1OCCCCOC1=NC=C(C=C1)C(F)(F)F)C)OCC=C(Cl)Cl | C20H19Cl3F3NO3
